* NGSPICE file created from mux_rcx.ext - technology: ihp-sg13g2

.subckt mux_rcx VSS VDD X A SEL B
X0 a_286_96# A.t0 a_224_456# VDD.t0 sg13_lv_pmos ad=0.1938p pd=1.4u as=91.8f ps=1.2u w=1.02u l=0.13u
X1 VSS.t4 SEL.t0 a_388_96# VSS.t3 sg13_lv_nmos ad=0.1828p pd=1.35u as=61.19999f ps=0.86u w=0.68u l=0.13u
X2 a_388_456# B.t0 a_286_96# VDD.t0 sg13_lv_pmos ad=91.8f pd=1.2u as=0.1938p ps=1.4u w=1.02u l=0.13u
X3 a_388_96# B.t0 a_286_96# VSS.t6 sg13_lv_nmos ad=61.19999f pd=0.86u as=0.1292p ps=1.06u w=0.68u l=0.13u
X4 VDD.t1 a_28_96# a_388_456# VDD.t0 sg13_lv_pmos ad=0.2719p pd=1.77u as=91.8f ps=1.2u w=1.02u l=0.13u
X5 X.t0 a_286_96# VSS.t4 VSS.t7 sg13_lv_nmos ad=0.2992p pd=2.44u as=0.1828p ps=1.35u w=0.88u l=0.13u
X6 VDD.t2 SEL.t1 a_28_96# VDD.t0 sg13_lv_pmos ad=0.1938p pd=1.4u as=0.3468p ps=2.72u w=1.02u l=0.13u
X7 a_286_96# A.t0 a_224_96# VSS.t5 sg13_lv_nmos ad=0.1292p pd=1.06u as=61.19999f ps=0.86u w=0.68u l=0.13u
X8 VSS.t1 SEL.t1 a_28_96# VSS.t2 sg13_lv_nmos ad=0.1292p pd=1.06u as=0.2312p ps=2.04u w=0.68u l=0.13u
X9 X.t1 a_286_96# VDD.t1 VDD.t0 sg13_lv_pmos ad=0.442p pd=3.28u as=0.2719p ps=1.77u w=1.3u l=0.13u
X10 a_224_96# a_28_96# VSS.t1 VSS.t0 sg13_lv_nmos ad=61.19999f pd=0.86u as=0.1292p ps=1.06u w=0.68u l=0.13u
X11 a_224_456# SEL.t1 VDD.t2 VDD.t0 sg13_lv_pmos ad=91.8f pd=1.2u as=0.1938p ps=1.4u w=1.02u l=0.13u
R0 X.t1 X.n0 17.0005
R1 X.n0 X.t0 9.31697
R2 X X.t1 8.55796
R3 X X.n0 0.168119
R4 B B.t0 15.0931
R5 A A.t0 15.0738
R6 SEL.n0 SEL.t0 15.9395
R7 SEL.n0 SEL.t1 15.0005
R8 SEL SEL.n0 0.0605
R9 VDD.n7 VDD.t1 17.174
R10 VDD.n10 VDD.n9 17.001
R11 VDD.n5 VDD.n1 17.0005
R12 VDD.n1 VDD.n0 17.0005
R13 VDD.n4 VDD.t2 8.71077
R14 VDD.n8 VDD.n7 8.58089
R15 VDD.t0 VDD.n2 8.501
R16 VDD.n9 VDD.t0 8.501
R17 VDD.n6 VDD.n3 8.47111
R18 VDD.t0 VDD.n8 5.66767
R19 VDD.n6 VDD.n5 0.180789
R20 VDD.n7 VDD.n6 0.130789
R21 VDD.n10 VDD.n0 0.1205
R22 VDD.n5 VDD.n4 0.1005
R23 VDD VDD.n10 0.0605
R24 VDD.n4 VDD.n0 0.0205
R25 VDD.n8 VDD.n3 0.001
R26 VDD.n3 VDD.n2 0.001
R27 VDD.n9 VDD.n1 0.001
R28 VDD.n2 VDD.n1 0.001
R29 VSS.t3 VSS.n0 697.802
R30 VSS.t0 VSS.n2 516.076
R31 VSS.t5 VSS.n1 479.695
R32 VSS.n4 VSS.t6 434.01
R33 VSS.t6 VSS.n1 296.954
R34 VSS.n3 VSS.t5 251.269
R35 VSS.n3 VSS.t0 220.812
R36 VSS.n2 VSS.t2 167.733
R37 VSS.n0 VSS.t7 152.167
R38 VSS.n4 VSS.t3 38.0716
R39 VSS.n6 VSS.t4 17.2878
R40 VSS.n5 VSS.n3 17.0005
R41 VSS.n5 VSS.n1 17.0005
R42 VSS.n5 VSS.n4 17.0005
R43 VSS.n5 VSS.n0 11.716
R44 VSS.n5 VSS.n2 10.7008
R45 VSS.n7 VSS.t1 8.71077
R46 VSS.n8 VSS.n5 8.47111
R47 VSS.n6 VSS.n5 3.34984
R48 VSS.n7 VSS.n6 0.295479
R49 VSS VSS.n8 0.120789
R50 VSS.n8 VSS.n7 0.080789
C0 VDD SEL 0.15459f
C1 A SEL 0.22711f
C2 a_286_96# a_388_96# 0.00682f
C3 a_28_96# B 0.10829f
C4 a_224_456# a_28_96# 0.00722f
C5 a_286_96# SEL 0.15909f
C6 X B 0
C7 a_28_96# a_388_456# 0.00432f
C8 X a_28_96# 0
C9 X a_388_456# 0
C10 a_388_96# B 0
C11 B SEL 0.21292f
C12 a_224_456# SEL 0
C13 a_286_96# a_224_96# 0.00146f
C14 a_28_96# SEL 0.49678f
C15 a_388_456# SEL 0
C16 X SEL 0
C17 B a_224_96# 0.00198f
C18 a_388_96# SEL 0
C19 a_28_96# a_224_96# 0
C20 VDD A 0.06967f
C21 a_286_96# VDD 0.26003f
C22 a_286_96# A 0.00712f
C23 SEL a_224_96# 0.00193f
C24 VDD B 0.05716f
C25 a_224_456# VDD 0.00621f
C26 B A 0.08583f
C27 a_286_96# B 0.15255f
C28 a_224_456# a_286_96# 0.00307f
C29 VDD a_28_96# 0.33307f
C30 VDD a_388_456# 0.00329f
C31 X VDD 0.08019f
C32 a_28_96# A 0.19829f
C33 a_286_96# a_28_96# 0.29794f
C34 a_286_96# a_388_456# 0.0079f
C35 X a_286_96# 0.36363f
C36 X VSS 0.24302f
C37 B VSS 0.35383f
C38 A VSS 0.19618f
C39 SEL VSS 0.26336f
C40 VDD VSS 0.14706f
C41 a_388_96# VSS 0
C42 a_224_96# VSS 0.00579f
C43 a_286_96# VSS 0.31086f
C44 a_28_96# VSS 0.41143f
C45 VDD.n0 VSS 0.00894f
C46 VDD.n1 VSS 0.0209f
C47 VDD.n3 VSS 0.0209f
C48 VDD.t1 VSS 0.03952f
C49 VDD.t2 VSS 0.02841f
C50 VDD.n4 VSS 0.02305f
C51 VDD.n5 VSS 0.01918f
C52 VDD.n6 VSS 0.01672f
C53 VDD.n7 VSS 0.0484f
C54 VDD.n8 VSS 0.02116f
C55 VDD.t0 VSS 0.69122f
C56 VDD.n9 VSS 0.01045f
C57 VDD.n10 VSS 0.0115f
C58 SEL.t0 VSS 0.172f
C59 SEL.t1 VSS 0.58436f
C60 SEL.n0 VSS 0.41603f
C61 A.t0 VSS 0.44895f
C62 B.t0 VSS 0.36436f
C63 X.t0 VSS 0.10742f
C64 X.n0 VSS 0.11087f
C65 X.t1 VSS 0.15015f
.ends

