* NGSPICE file created from mux_rcx.ext - technology: ihp-sg13g2

.subckt mux_rcx VSS VDD X A SEL B
X0 a_286_96# A.t0 a_224_456# VDD.t0 sg13_lv_pmos ad=0.1938p pd=1.4u as=91.8f ps=1.2u w=1.02u l=0.13u
X1 VSS.t4 SEL.t0 a_388_96# VSS.t3 sg13_lv_nmos ad=0.1759p pd=1.29u as=61.19999f ps=0.86u w=0.68u l=0.13u
X2 a_388_456# B.t0 a_286_96# VDD.t0 sg13_lv_pmos ad=91.8f pd=1.2u as=0.1938p ps=1.4u w=1.02u l=0.13u
X3 a_388_96# B.t0 a_286_96# VSS.t6 sg13_lv_nmos ad=61.19999f pd=0.86u as=0.1292p ps=1.06u w=0.68u l=0.13u
X4 VDD.t1 a_28_96# a_388_456# VDD.t0 sg13_lv_pmos ad=0.265p pd=1.71u as=91.8f ps=1.2u w=1.02u l=0.13u
X5 X.t0 a_286_96# VSS.t4 VSS.t7 sg13_lv_nmos ad=0.2788p pd=2.32u as=0.1759p ps=1.29u w=0.82u l=0.13u
X6 X.t1 a_286_96# VDD.t1 VDD.t0 sg13_lv_pmos ad=0.4216p pd=3.16u as=0.265p ps=1.71u w=1.24u l=0.13u
X7 VDD.t2 SEL.t1 a_28_96# VDD.t0 sg13_lv_pmos ad=0.1938p pd=1.4u as=0.3468p ps=2.72u w=1.02u l=0.13u
X8 a_286_96# A.t0 a_224_96# VSS.t5 sg13_lv_nmos ad=0.1292p pd=1.06u as=61.19999f ps=0.86u w=0.68u l=0.13u
X9 VSS.t1 SEL.t1 a_28_96# VSS.t2 sg13_lv_nmos ad=0.1292p pd=1.06u as=0.2312p ps=2.04u w=0.68u l=0.13u
X10 a_224_96# a_28_96# VSS.t1 VSS.t0 sg13_lv_nmos ad=61.19999f pd=0.86u as=0.1292p ps=1.06u w=0.68u l=0.13u
X11 a_224_456# SEL.t1 VDD.t2 VDD.t0 sg13_lv_pmos ad=91.8f pd=1.2u as=0.1938p ps=1.4u w=1.02u l=0.13u
R0 X.t1 X.n0 17.0005
R1 X.n0 X.t0 9.34067
R2 X X.t1 8.55796
R3 X X.n0 0.168119
R4 B B.t0 15.0931
R5 A A.t0 15.0738
R6 SEL.n0 SEL.t0 15.9395
R7 SEL.n0 SEL.t1 15.0005
R8 SEL SEL.n0 0.0605
R9 VDD.n7 VDD.t1 17.174
R10 VDD.n10 VDD.n9 17.001
R11 VDD.n5 VDD.n1 17.0005
R12 VDD.n1 VDD.n0 17.0005
R13 VDD.n4 VDD.t2 8.71077
R14 VDD.n8 VDD.n7 8.58089
R15 VDD.t0 VDD.n2 8.501
R16 VDD.n9 VDD.t0 8.501
R17 VDD.n6 VDD.n3 8.47111
R18 VDD.t0 VDD.n8 5.66767
R19 VDD.n6 VDD.n5 0.180789
R20 VDD.n7 VDD.n6 0.130789
R21 VDD.n10 VDD.n0 0.1205
R22 VDD.n5 VDD.n4 0.1005
R23 VDD VDD.n10 0.0605
R24 VDD.n4 VDD.n0 0.0205
R25 VDD.n8 VDD.n3 0.001
R26 VDD.n3 VDD.n2 0.001
R27 VDD.n9 VDD.n1 0.001
R28 VDD.n2 VDD.n1 0.001
R29 VSS.t3 VSS.n0 680.645
R30 VSS.t0 VSS.n2 503.442
R31 VSS.t5 VSS.n1 467.822
R32 VSS.n4 VSS.t6 423.267
R33 VSS.t6 VSS.n1 289.604
R34 VSS.n3 VSS.t5 245.049
R35 VSS.n3 VSS.t0 215.347
R36 VSS.n2 VSS.t2 163.544
R37 VSS.n0 VSS.t7 148.355
R38 VSS.n4 VSS.t3 37.1292
R39 VSS.n6 VSS.t4 17.2878
R40 VSS.n5 VSS.n3 17.0005
R41 VSS.n5 VSS.n1 17.0005
R42 VSS.n5 VSS.n4 17.0005
R43 VSS.n5 VSS.n0 11.7124
R44 VSS.n5 VSS.n2 10.6983
R45 VSS.n7 VSS.t1 8.71077
R46 VSS.n8 VSS.n5 8.47111
R47 VSS.n6 VSS.n5 3.34984
R48 VSS.n7 VSS.n6 0.295479
R49 VSS VSS.n8 0.120789
R50 VSS.n8 VSS.n7 0.080789
C0 VDD a_286_96# 0.25945f
C1 SEL a_286_96# 0.1616f
C2 B A 0.08583f
C3 B a_388_96# 0
C4 A a_286_96# 0.00712f
C5 a_388_96# a_286_96# 0.00682f
C6 a_388_456# a_28_96# 0.00432f
C7 a_388_456# VDD 0.00329f
C8 a_388_456# SEL 0
C9 a_224_456# a_286_96# 0.00307f
C10 a_224_96# a_28_96# 0
C11 X B 0
C12 SEL a_224_96# 0.00193f
C13 B a_286_96# 0.15255f
C14 X a_286_96# 0.36515f
C15 a_388_456# X 0
C16 a_388_456# a_286_96# 0.0079f
C17 VDD a_28_96# 0.33485f
C18 a_224_96# B 0.00198f
C19 SEL a_28_96# 0.497f
C20 SEL VDD 0.14715f
C21 a_224_96# a_286_96# 0.00146f
C22 A a_28_96# 0.19829f
C23 VDD A 0.06715f
C24 SEL A 0.22711f
C25 SEL a_388_96# 0
C26 a_224_456# a_28_96# 0.00722f
C27 a_224_456# VDD 0.00621f
C28 SEL a_224_456# 0
C29 B a_28_96# 0.10829f
C30 VDD B 0.0541f
C31 SEL B 0.21292f
C32 X a_28_96# 0
C33 X VDD 0.08159f
C34 a_28_96# a_286_96# 0.30045f
C35 SEL X 0
C36 X VSS 0.2453f
C37 B VSS 0.35538f
C38 A VSS 0.1981f
C39 SEL VSS 0.27012f
C40 VDD VSS 0.14493f
C41 a_388_96# VSS 0
C42 a_224_96# VSS 0.00579f
C43 a_286_96# VSS 0.31713f
C44 a_28_96# VSS 0.40961f
C45 VDD.n0 VSS 0.00898f
C46 VDD.n1 VSS 0.021f
C47 VDD.n3 VSS 0.021f
C48 VDD.t1 VSS 0.03871f
C49 VDD.t2 VSS 0.02854f
C50 VDD.n4 VSS 0.02316f
C51 VDD.n5 VSS 0.01927f
C52 VDD.n6 VSS 0.0168f
C53 VDD.n7 VSS 0.04863f
C54 VDD.n8 VSS 0.02126f
C55 VDD.t0 VSS 0.68051f
C56 VDD.n9 VSS 0.0105f
C57 VDD.n10 VSS 0.01155f
C58 SEL.t0 VSS 0.17135f
C59 SEL.t1 VSS 0.58216f
C60 SEL.n0 VSS 0.41447f
C61 A.t0 VSS 0.44703f
C62 B.t0 VSS 0.36256f
C63 X.t0 VSS 0.10445f
C64 X.n0 VSS 0.11511f
C65 X.t1 VSS 0.14879f
.ends

